US08685980B2
Following General Procedure B, 7-cyclopentyl-2-(5-formyl-pyridin-2-ylamino)-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide (150 mg, 0.396 mmol) and N-isopropylpiperazine (56 mg, 0.436 mmol) gave 7-cyclopentyl-2-[5-(4-isopropyl-piperazin-1-ylmethyl)-pyridin-2-ylamino]-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide (103 mg, 53%) [following SiO2 chromatography, eluting with 0-10% (2M NH3 in MeOH)/dichloromethane]. MS (ESI) m/z 491.3 (M+H)+ (method A).

reactant | 7-cyclopentyl-2-(5-formyl-pyridin-2-ylamino)-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide | 0.396 mmol, 150 mg | CN(C(=O)C1=CC2=C(N=C(N=C2)NC2=NC=C(C=C2)C=O)N1C1CCCC1)C | C20H22N6O2
reactant | N-isopropylpiperazine | 0.436 mmol, 56 mg | C(C)(C)N1CCNCC1 | C7H16N2
product | 7-cyclopentyl-2-[5-(4-isopropyl-piperazin-1-ylmethyl)-pyridin-2-ylamino]-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide | 2M, 103 mg | CN(C(=O)C1=CC2=C(N=C(N=C2)NC2=NC=C(C=C2)CN2CCN(CC2)C(C)C)N1C1CCCC1)C | C27H38N8O
